US04548814
Acid Hydrolysis of Didemnins
The didemnin samples were hydrolyzed in 6N HCl at 110° C. for 24 hours. The resulting amino acids were identified by field desorption mass spectrometry (FDMS) of the mixture, as well as by gas chromatography (GC)/MS of the amino acids' trifluoroacetyl n-butyl ester derivatives. They were also quantitated by GC, and their identities confirmed by coinjection with derivatives of authentic samples.

reactant | didemnin | CC[C@H](C)[C@@H]1[C@H](CC(=O)O[C@H](C(=O)[C@@H](C(=O)N[C@H](C(=O)N2CCC[C@H]2C(=O)N([C@H](C(=O)O[C@@H]([C@@H](C(=O)N1)NC(=O)[C@@H](CC(C)C)N(C)C(=O)[C@@H]3CCCN3C(=O)C(C)O)C)CC=4C=CC(=CC4)OC)C)CC(C)C)C)C(C)C)O | C57H89N7O15
solvent | HCl | 6N | Cl | ClH
product | Didemnins | CC[C@H](C)[C@@H]1[C@H](CC(=O)O[C@H](C(=O)[C@@H](C(=O)N[C@H](C(=O)N2CCC[C@H]2C(=O)N([C@H](C(=O)O[C@@H]([C@@H](C(=O)N1)NC(=O)[C@@H](CC(C)C)NC)C)CC3=CC=C(C=C3)OC)C)CC(C)C)C)C(C)C)O | C49H78N6O12
